US06635655B1
6-[3-(1,3,3-Trimethyl-2-oxo-2,3-dihydro-1H-indol-6-yloxymethyl)-phenyl]-hexanoic Acid Methyl Ester
To a solution of 6-hydroxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one (396 mg, 2.07 mmol) in DMF (7.6 mL) is added 6-(3-Bromomethyl-phenyl)-hexanoic acid methyl ester (682 mg, 2.28 mmol) and potassium carbonate (315 mg, 2.28 mmol). The resulting mixture is heated to 60° C., stirred for 2 hrs. then cooled to room temp and diluted with EtOAc. The organic layer is washed with water, brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 30% ethyl acetate/hexanes) to give 352 mg of title compound. MS (ESI) 410 (M+H)+.

reactant | 6-hydroxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one | 2.07 mmol, 396 mg | OC1=CC=C2C(C(N(C2=C1)C)=O)(C)C | C11H13NO2
reactant | 6-(3-Bromomethyl-phenyl)-hexanoic acid methyl ester | 2.28 mmol, 682 mg | COC(CCCCCC1=CC(=CC=C1)CBr)=O | C14H19BrO2
reactant | potassium carbonate | 2.28 mmol, 315 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7.6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-[3-(1,3,3-Trimethyl-2-oxo-2,3-dihydro-1H-indol-6-yloxymethyl)-phenyl]-hexanoic Acid Methyl Ester | 352 mg | COC(CCCCCC1=CC(=CC=C1)C(C)OC1=CC=C2C(C(NC2=C1)=O)(C)C)=O | C25H31NO4
